Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Flank pain
 
Major Surgical or Invasive Procedure:
Transesophageal echocardiogram (___)

 
History of Present Illness:
___ is a ___ year old man with no known medical 
problems who presents with flank pain and concern for renal 
infarct. 

Patient reports that the pain came on suddenly which was 
followed by "unexplained fevers" and feeling really tired. Pain 
is left sided, radiates to testicles and left lower back. 
Overall pain is getting better, but still having flares. No 
urinary symptoms of dysuria/urgency/frequency, no new sexual 
contacts. 

He denies any family history of clotting disorder, but does say 
he has a sister with atrial fibrillation and there have been 
many early deaths in his family from CVD.  

In the ED, initial VS were:  100.4 84 123/75 17 100% RA 
Exam notable for:  fever to 102.9 
ECG: sinus  
Labs showed:  leukocytosis, transaminitis, ___
Imaging showed:  concern for renal infarct
Consults:  vascular 
Patient received:  fluid, ceftriaxone, Tylenol 
Transfer VS were:  100.3 77 126/81 18 99% RA 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  
 
Past Medical History:
Hyperlipidemia
 
Social History:
___
Family History:
-Early CAD 
-Sister with AF 
-No history of clotting problems 

 
Physical Exam:
=====================
ADMISSION EXAM
=====================
VS: 99.0 158/89 88 18 99%RA 
Gen: sleeping comfortably in bed laying flat, no distress 
CV: RRR, no skipped beats or murmur 
Chest: lungs CTAB 
Back: minimal discomfort when testing for CVA tenderness on left 

Abd: soft, NTND 
Neuro: speech fluent, alert and oriented  

=====================
DISCHARGE EXAM
=====================
Tele: Reviewed, NSR, no atrial fibrillation
___ 0721 Temp: 99.9 PO BP: 125/87 L Lying HR: 75 RR: 18
O2 sat: 99% O2 delivery: Ra  
Gen: Sitting in bed, in no acute distress
HEENT: PERRL, EOMI, anicteric sclerae, moist mucous membranes
CV: RRR, no murmurs
Resp: Lungs CTAB 
Back: No CVA tenderness 
Abd: Soft, NTND 
Ext: Warm, well-perfused, no peripheral edema
Skin: Possible splinter hemorrhage on right ___ digit although
appears superficial rather than subungual
Neuro: AOx3, no focal deficits 
 
Pertinent Results:
======================
ADMISSION LABS
======================
___ 09:50AM BLOOD WBC-16.4* RBC-5.08 Hgb-15.7 Hct-45.4 
MCV-89 MCH-30.9 MCHC-34.6 RDW-11.6 RDWSD-37.6 Plt ___
___ 09:50AM BLOOD Neuts-85.3* Lymphs-6.7* Monos-7.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-14.00* AbsLymp-1.10* 
AbsMono-1.17* AbsEos-0.00* AbsBaso-0.03
___ 09:50AM BLOOD Glucose-105* UreaN-19 Creat-1.3* Na-136 
K-4.4 Cl-95* HCO3-25 AnGap-16
___ 09:50AM BLOOD ALT-61* AST-51* AlkPhos-47 TotBili-1.5
___ 10:00AM BLOOD Lactate-1.1

======================
PERTINENT RESULTS
======================
LABS
======================
___ 03:30AM BLOOD ___
___ 10:50AM BLOOD Ret Aut-1.5 Abs Ret-0.06
___ 09:50AM BLOOD Iron-29*
___ 09:50AM BLOOD calTIBC-334 Ferritn-340 TRF-257
___ 03:30AM BLOOD Hapto-201*
===
___ 07:10AM BLOOD CRP-172.6*
___ 05:52AM BLOOD CRP-104.1*
___ 07:10AM BLOOD SED RATE-46    
===
___ 03:20PM BLOOD Beta-2-Glycoprotein 1 Antibodies 
IgG-Negative      
___ 01:32PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-IgG 
negative, IgM indeterminate 

======================
MICROBIOLOGY
======================
___ 09:50AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 09:50AM BLOOD HCV Ab-NEG
___ 07:10AM BLOOD HIV Ab-NEG
===
___ 07:10AM BLOOD BRUCELLA ANTIBODY, AGGLUTINATION-PND
___ 10:50AM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM-PND
___ 10:50 am Blood (LYME)
Lyme IgG (Pending): 
Lyme IgM (Pending): 
___ 10:50AM BLOOD Parst S-NEGATIVE
===
___ 5:54 am BLOOD CULTURE Blood Culture, Routine (Pending): 

___ 5:52 am BLOOD CULTURE Blood Culture, Routine (Pending): 

___ 7:30 am BLOOD CULTURE Blood Culture, Routine (Pending): 

___ 12:50 pm BLOOD CULTURE Blood Culture, Routine 
(Pending): 
___ 10:50 am BLOOD CULTURE Blood Culture, Routine 
(Pending): 
___ 6:30 pm BLOOD CULTURE  Blood Culture, Routine (Final 
___: NO GROWTH. 
___ 5:32 pm BLOOD CULTURE Blood Culture, Routine (Final 
___:    NO GROWTH. 
===
___ 7:10 am BLOOD CULTURE BRUCELLA BLOOD CULTURE 
(Preliminary): 
===
___ 5:45 pm URINE URINE CULTURE (Final ___: NO 
GROWTH. 
___ 9:50 am URINE  ****** ___ Urgent Care ******. 

URINE CULTURE (Final ___: NO GROWTH. 

======================
IMAGING/STUDIES
======================
CT Abdomen/Pelvis with contrast (___):
1. Relatively large heterogeneous wedge-shaped areas of 
hypoattenuation in the left kidney with mild surrounding 
perinephric stranding, concerning for either acute 
pyelonephritis or renal infarct. 
2. No other acute findings in the abdomen or pelvis. 
3. Small fat containing left inguinal hernia. 
===
Renal ultrasound with Doppler (___):  
Sonographically normal appearance of the kidneys with normal 
flow and waveforms seen in the bilateral main and intrarenal 
arteries. Please note 
that the entirety of the renal arteries are not assessed by this 
examination and a CTA would be better for evaluation. 
==
TTE (___): The left atrium is elongated. No atrial septal 
defect is seen by 2D or color Doppler. The estimated right 
atrial pressure is ___ mmHg. The estimated cardiac index is high 
(>4.0L/min/m2). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). There is an abnormal 
systolic flow contour at rest with elevated LVOT velocity due to 
hyperdynamic LV systolic function, but no left ventricular 
outflow obstruction. Right ventricular chamber size and free 
wall motion are normal. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis or aortic regurgitation. No masses or 
vegetations are seen on the aortic valve. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. No mass or vegetation is seen 
on the mitral valve. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. 

IMPRESSION: No cardiac source of embolism identified. Normal 
biventricular cavity sizes with preserved global and regional 
biventricular systolic function. Mild pulmonary hypertension. 
===
TEE (___): There is no spontaneous echo contrast or thrombus 
in the body of the left atrium/left atrial appendage. The left 
atrial appendage ejection velocity is normal. No spontaneous 
echo contrast or thrombus is seen in the body of the right 
atrium/right atrial appendage. There is no evidence of an atrial 
septal defect or patent foramen ovale by 2D/color 
Doppler/agitated saline with maneuvers. Global left ventricular 
systolic function is normal. There are no aortic arch atheroma 
with no atheroma in the descending aorta. The aortic valve 
leaflets (3) appear structurally normal. No masses or 
vegetations are seen on the aortic valve. No abscess is seen. 
There is no aortic regurgitation. The mitral leaflets appear 
structurally normal with no mitral valve prolapse. No masses or 
vegetations are seen on the mitral valve. No abscess is seen. 
There is trivial mitral regurgitation. The tricuspid valve 
leaflets appear structurally normal. No mass/vegetation are seen 
on the tricuspid valve. No abscess is seen. There is mild [1+] 
tricuspid regurgitation.

IMPRESSION: Good image quality. No spontaneous echo contrast or 
thrombus in the left atrium/left atrial appendage/right 
atrium/right atrial appendage. No discrete vegetation or abscess 
seen. No atrial septal defect
or patent forament ovale identified by 2D, Doppler or 
intravenous saline with maneuvers. Normal global left 
ventricular systolic function.
===
Bilateral lower extremities ultrasound (___):  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
===
CTA Chest (___):
- The aorta and its major branch vessels are patent, with no 
evidence of 
stenosis, occlusion, dissection, or aneurysmal formation. There 
is no 
evidence of penetrating atherosclerotic ulcer or aortic arch 
atheroma present. 
- No evidence of pulmonary embolism or aortic abnormality. 
- Trace left pleural effusion. 

======================
DISCHARGE LABS
======================
___ 05:54AM BLOOD WBC-6.6 RBC-4.24* Hgb-12.9* Hct-37.1* 
MCV-88 MCH-30.4 MCHC-34.8 RDW-11.5 RDWSD-37.1 Plt ___
___ 05:54AM BLOOD ___ PTT-33.8 ___
___ 05:54AM BLOOD Glucose-94 UreaN-15 Creat-1.1 Na-140 
K-4.9 Cl-102 HCO3-23 AnGap-15
___ 05:54AM BLOOD Calcium-9.2 Phos-3.4 Mg-2.2
 
Brief Hospital Course:
Mr. ___ is a ___ y/o man with HDL who presented with flank 
pain and fevers and was found to have left renal infarct.

===================
ACUTE ISSUES
===================
# Left renal infarct: Patient presented with acute onset of left 
flank pain and fever. CT abdomen/pelvis showed two areas of 
wedge-shaped hypoattenuation in the left kidney consistent with 
renal infarct. Renal ultrasound showed bilateral patent renal 
arteries without evidence of thrombosis or dissection. CTA of 
the chest showed that the aorta and its major branch vessels are 
patent, with no evidence of stenosis, occlusion, dissection, or 
aneurysmal formation. There was no evidence of penetrating 
atherosclerotic ulcer or aortic arch atheroma. The patient had 
no atrial fibrillation on telemetry during the hospitalization. 
TTE was without valvular disease or vegetations, but did show a 
mildly dilated RA possibly indicative of occult paroxysmal 
atrial fibrillation. TEE was negative for vegetations, and also 
did not show a PFO or ASD. Lower extremity ultrasounds were 
negative for DVT. Beta 2 glycoprotein was negative; cardiolipin 
IgG was negative, IgM indeterminate. Ultimately, the most likely 
etiology of the patient's renal infarct was thought to be occult 
paroxysmal atrial fibrillation, and the patient should have 
outpatient cardiac monitoring to assess potential atrial 
fibrillation burden. The patient was initiated on a heparin gtt 
and ultimately transitioned to rivaroxaban for anticoagulation.

# Fever
# Leukocytosis: Patient presented with high-grade fevers in 
setting of renal infarct as above. Infectious Disease was 
consulted and an infectious evaluation was undertaken. 
Urinalysis was bland and urine culture was negative. Blood 
cultures were negative. CT chest was negative for pneumonia. Flu 
swab was negative. TTE and TEE were negative for vegetations. 
Babesia smear was negative. Brucella antibody; Lyme serologies; 
Anaplasma serologies were pending at time of discharge. The 
patient defervesced without antibiotic therapy, and ultimately 
his fevers were thought to be due to his renal infarct rather 
than an infectious etiology.

# Acute renal failure: Creatinine 1.3 on admission, thought to 
be pre-renal and improved with intravenous fluids. Creatinine 
1.1 on day of discharge.

===================
TRANSITIONAL ISSUES
===================
- Patient started on rivaroxaban for anticoagulation; duration 
of anticoagulation to be determined pending further evaluation 
for etiology of infarct
- Patient should have long-term outpatient cardiac monitoring to 
assess for occult paroxysmal atrial fibrillation. He was 
instructed to call the ___ lab to have this set up when the 
lab opens on ___
- Consider repeat imaging, ultrasound or MRI, in approximately 1 
month to reassess renal infarct
- Patient will follow up with hematology/oncology for 
consideration of further testing for hypercoagulability
- Patient noted to be Hepatitis B nonimmune; consider 
revaccination
 
Medications on Admission:
None
 
Discharge Medications:
1.  Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Left renal infarct
- Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You came to the hospital because you had fever and flank pain.

WHAT HAPPENED TO ME IN THE HOSPITAL?
- We found that your had an infarction of your left kidney
- We did several tests to look for a cause of this but we did 
not find one
- You were also evaluated for your fever, which we thought was 
from the infarction and not due to an infection
- You were started on a blood thinner called rivaroxaban 
(___) to help prevent stroke

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take your new medication called rivaroxaban; be 
sure to take this medicine with a meal
- A heart monitor was ordered for you and can be picked up at 
the ___ main campus; call ___ or ___ to 
arrange a time to pick up your monitor or for it to be mailed to 
you. 

We wish you the best of health.

Sincerely,

Your ___ Team
 
Followup Instructions:
___